US08957243B2
Synthesis of HS(CH2)12Br, See Reference (21).
Alternations to the referenced procedure include the substitution of S-12-(2,5-dihydroxyphenyl)dodecyl ethanethioate with CH3(CO)S(CH2)12Br and K2CO3 for concentrated HCl, the reaction time was reduced from 12 h to 5 h and the product was purified by sublimation (−20° C. cold finger, 0.5 mmHg, 70° C. oil bath). Yield; 3.47 g, 12.32 mmol, 89%; 1H NMR (400.09 MHz, CDCl3) δ (ppm); 3.40 (t, 2H, 3JH—H=7.2 Hz, BrCH2), 2.51 (dt, 2H, 3JH—H=7.2 Hz, HSCH2), 1.84 (quintet, 2H, 3JH—H=7.2 Hz, BrCH2CH2), 1.60 (quintet, 2H, 3JH—H=7.2 Hz, HSCH2CH2), 1.44-1.26 (m, 17H, CH2 and SH t, 3JH—H=7.6 Hz). 13C NMR (100.60 MHz, CDCl3) δ (ppm); 45.14, 34.01, 32.80, 32.61, 29.45, 29.03, 28.85, 28.72, 28.33, 28.14, 26.84, 24.62.

reactant | CH3(CO)S(CH2)12Br | CC(=O)SCCCCCCCCCCCCBr | C14H27BrOS
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | Cl | ClH
product | HS(CH2)12Br | SCCCCCCCCCCCCBr | C12H25BrS
